* Copyright 2026 GlobalFoundries PDK Authors
*
* Licensed under the Apache License, Version 2.0 (the "License");
* you may not use this file except in compliance with the License.
* You may obtain a copy of the License at
*
*     https://www.apache.org/licenses/LICENSE-2.0
*
* Unless required by applicable law or agreed to in writing, software
* distributed under the License is distributed on an "AS IS" BASIS,
* WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
* See the License for the specific language governing permissions and
* limitations under the License.

.lib cap_mim_new

*--------------------------------------------------------------------------------
* OPTION-A [3LM]
*--------------------------------------------------------------------------------

*--------------------------------------------------------------------------------
* MIM Capacitor (1.5fF/um2) subcircuit model for GF's 0.18 Analog CMOS process
*--------------------------------------------------------------------------------
.subckt cap_mim_1f5_m2m3_noshield 1 2 c_length=l c_width=w dtemp=0 par=1
.param c_cox='1.47e-3*mim_corner_1p5ff'
.param c_capsw='3.79e-10*mim_corner_1p5ff'
.param c_tnom=25
.param c_tc1=4.0604e-05
.param c_tc2=-6.90e-08
.param c_vcr1=-4.5152e-05
.param c_vcr2=9.748e-06
.param c_area='c_length*c_width'
.param c_peri='2*(c_length+c_width)'
.param c_c0='(c_cox*c_area+c_capsw*c_peri)*(1+mc_c_cox_1p5ff)'
* + c_c0='(c_cox*c_area+c_capsw*c_peri)*(1+c_tc1*(temper+dtemp-c_tnom)+c_tc2*(temper+dtemp-c_tnom)*(temper+dtemp-c_tnom))'
.model cap_mim_1f5_m2m3_noshield_model c 
+ cap=c_c0
+ tc1=c_tc1
+ tc2=c_tc2
+ tnom=c_tnom
* c_cap 1 2 c='c_c0*(1+ c_vcr1*v(1, 2)+c_vcr2*v(1,2)*v(1,2) )*(1+mc_c_cox_1p5fF)'
c_cap 1 2 cap_mim_1f5_m2m3_noshield_model dtemp=dtemp
.ends cap_mim_1f5_m2m3_noshield

*--------------------------------------------------------------------------------
* MIM Capacitor (1fF/um2) subcircuit model for GF's 0.18 Analog CMOS process
*--------------------------------------------------------------------------------
.subckt cap_mim_1f0_m2m3_noshield 1 2 c_length=l c_width=w dtemp=0 par=1
.param c_cox='0.987e-3*mim_corner_1p0ff'
.param c_capsw='3.3e-10*mim_corner_1p0ff'
.param c_tnom=25
.param c_tc1=1.302e-5
.param c_tc2=-4.93e-9
.param c_vcr1=6.079e-6
.param c_vcr2=1.268e-6
.param c_area='c_length*c_width'
.param c_peri='2*(c_length+c_width)'
.param c_c0='(c_cox*c_area+c_capsw*c_peri)*(1+mc_c_cox_1p0ff)'
* + c_c0='(c_cox*c_area+c_capsw*c_peri)*(1 + c_tc1*(temper+dtemp-c_tnom) + c_tc2*(temper+dtemp-c_tnom)*(temper+dtemp-c_tnom))'
.model cap_mim_1f0_m2m3_noshield_model c 
+ cap=c_c0
+ tc1=c_tc1
+ tc2=c_tc2
+ tnom=c_tnom
* c_cap 1 2 c='c_c0*(1+ c_vcr1*v(1, 2)+c_vcr2*v(1,2)*v(1,2) )*(1+mc_c_cox_1p0fF)'
c_cap 1 2 cap_mim_1f0_m2m3_noshield_model dtemp=dtemp
.ends cap_mim_1f0_m2m3_noshield

*--------------------------------------------------------------------------------
* MIM Capacitor (2fF/um2) subcircuit model for GLOBALFOUNDRIES 0.18 Analog CMOS process M2-M3
*--------------------------------------------------------------------------------
.subckt cap_mim_2f0_m2m3_noshield 1 2 c_length=l c_width=w dtemp=0 par=1
.param gleak='9.51e-10/5*10000'
.param c_cox='1.99e-3*mim_corner_2p0ff'
.param c_capsw='2.383e-10*mim_corner_2p0ff'
.param c_vcr1='0+(c_width>5u||c_length>5u)*8.742e-6+(c_width<=5u||c_length<=5u)*(-81e-6)'
.param c_vcr2='0+(c_width>5u||c_length>5u)*9.188e-6+(c_width<=5u||c_length<=5u)*(16.7e-6)'
.param c_tnom=25
.param c_tc1=1.46e-5
.param c_tc2=-5.55e-8
.param c_area='c_length*c_width'
.param c_peri='2*(c_length+c_width)'
* .param c_c0='(c_cox*c_AREA+c_capsw*c_PERI)*(1+c_tc1*(temper +dtemp -c_tnom)+c_tc2*(temper+dtemp-c_tnom)*(temper+dtemp-c_tnom))'
.param c_c0='(c_cox*c_area+c_capsw*c_peri)*(1+mc_c_cox_2p0ff)'
.model cap_mim_2f0_m2m3_noshield_model c 
+ cap=c_c0
+ tc1=c_tc1
+ tc2=c_tc2
+ tnom=c_tnom
* c_cap 1 2 c='c_c0*(1+c_vcr1*v(1,2)+c_vcr2*v(1,2)*v(1,2))*(1+mc_c_cox_2p0fF)'
c_cap 1 2 cap_mim_2f0_m2m3_noshield_model dtemp=dtemp
r_leak 1 2 r='1/(gleak*c_area)' dtemp=dtemp tc1=c_tc1 tc2=c_tc2
.ends cap_mim_2f0_m2m3_noshield

*--------------------------------------------------------------------------------
* OPTION-B [4LM]
*--------------------------------------------------------------------------------

*--------------------------------------------------------------------------------
* MIM Capacitor (1.5fF/um2) subcircuit model for GF's 0.18 Analog CMOS process
*--------------------------------------------------------------------------------
.subckt cap_mim_1f5_m3m4_noshield 1 2 c_length=l c_width=w dtemp=0 par=1
.param c_cox='1.47e-3*mim_corner_1p5ff'
.param c_capsw='3.79e-10*mim_corner_1p5ff'
.param c_tnom=25
.param c_tc1=4.0604e-05
.param c_tc2=-6.90e-08
.param c_vcr1=-4.5152e-05
.param c_vcr2=9.748e-06
.param c_area='c_length*c_width'
.param c_peri='2*(c_length+c_width)'
.param c_c0='(c_cox*c_area+c_capsw*c_peri)*(1+mc_c_cox_1p5ff)'
* + c_c0='(c_cox*c_area+c_capsw*c_peri)*(1+c_tc1*(temper+dtemp-c_tnom)+c_tc2*(temper+dtemp-c_tnom)*(temper+dtemp-c_tnom))'
.model cap_mim_1f5_m3m4_noshield_model c 
+ cap=c_c0
+ tc1=c_tc1
+ tc2=c_tc2
+ tnom=c_tnom
* c_cap 1 2 c='c_c0*(1+ c_vcr1*v(1, 2)+c_vcr2*v(1,2)*v(1,2) )*(1+mc_c_cox_1p5fF)'
c_cap 1 2 cap_mim_1f5_m3m4_noshield_model dtemp=dtemp
.ends cap_mim_1f5_m3m4_noshield

*--------------------------------------------------------------------------------
* MIM Capacitor (1fF/um2) subcircuit model for GF's 0.18 Analog CMOS process
*--------------------------------------------------------------------------------
.subckt cap_mim_1f0_m3m4_noshield 1 2 c_length=l c_width=w dtemp=0 par=1
.param c_cox='0.987e-3*mim_corner_1p0ff'
.param c_capsw='3.3e-10*mim_corner_1p0ff'
.param c_tnom=25
.param c_tc1=1.302e-5
.param c_tc2=-4.93e-9
.param c_vcr1=6.079e-6
.param c_vcr2=1.268e-6
.param c_area='c_length*c_width'
.param c_peri='2*(c_length+c_width)'
.param c_c0='(c_cox*c_area+c_capsw*c_peri)*(1+mc_c_cox_1p0ff)'
* + c_c0='(c_cox*c_area+c_capsw*c_peri)*(1+c_tc1*(temper+dtemp-c_tnom)+c_tc2*(temper+dtemp-c_tnom)*(temper+dtemp-c_tnom))'
.model cap_mim_1f0_m3m4_noshield_model c 
+ cap=c_c0
+ tc1=c_tc1
+ tc2=c_tc2
+ tnom=c_tnom
* c_cap 1 2 c='c_c0*(1+ c_vcr1*v(1, 2)+c_vcr2*v(1,2)*v(1,2) )*(1+mc_c_cox_1p0fF)'
c_cap 1 2 cap_mim_1f0_m3m4_noshield_model dtemp=dtemp
.ends cap_mim_1f0_m3m4_noshield

*--------------------------------------------------------------------------------
* MIM Capacitor (2fF/um2) subcircuit model for GLOBALFOUNDRIES 0.18 Analog CMOS 
* process M2-M3
*--------------------------------------------------------------------------------
.subckt cap_mim_2f0_m3m4_noshield 1 2 c_length=l c_width=w dtemp=0 par=1
.param gleak='9.51e-10/5*10000'
.param c_cox='1.99e-3*mim_corner_2p0ff'
.param c_capsw='2.383e-10*mim_corner_2p0ff'
.param c_vcr1='0+(c_width>5u||c_length>5u)*8.742e-6+(c_width<=5u||c_length<=5u)*(-81e-6)'
.param c_vcr2='0+(c_width>5u||c_length>5u)*9.188e-6+(c_width<=5u||c_length<=5u)*(16.7e-6)'
.param c_tnom=25
.param c_tc1=1.46e-5
.param c_tc2=-5.55e-8
.param c_area='c_length*c_width'
.param c_peri='2*(c_length+c_width)'
* .param c_c0='(c_cox*c_AREA+c_capsw*c_PERI)*(1+c_tc1*(temper +dtemp -c_tnom)+c_tc2*(temper+dtemp-c_tnom)*(temper+dtemp-c_tnom))'
.param c_c0='(c_cox*c_area+c_capsw*c_peri)*(1+mc_c_cox_2p0ff)'
.model cap_mim_2f0_m3m4_noshield_model c 
+ cap=c_c0
+ tc1=c_tc1
+ tc2=c_tc2
+ tnom=c_tnom
* c_cap 1 2 c='c_c0*(1+c_vcr1*v(1,2)+c_vcr2*v(1,2)*v(1,2))*(1+mc_c_cox_2p0fF)'
c_cap 1 2 cap_mim_2f0_m3m4_noshield_model dtemp=dtemp
r_leak 1 2 r='1/(gleak*c_area)' dtemp=dtemp tc1=c_tc1 tc2=c_tc2
.ends cap_mim_2f0_m3m4_noshield

*--------------------------------------------------------------------------------
* OPTION-B [5LM]
*--------------------------------------------------------------------------------

*--------------------------------------------------------------------------------
* MIM Capacitor (1.5fF/um2) subcircuit model for GF's 0.18 Analog CMOS process
*--------------------------------------------------------------------------------
.subckt cap_mim_1f5_m4m5_noshield 1 2 c_length=l c_width=w dtemp=0 par=1
.param c_cox='1.47e-3*mim_corner_1p5ff'
.param c_capsw='3.79e-10*mim_corner_1p5ff'
.param c_tnom=25
.param c_tc1=4.0604e-05
.param c_tc2=-6.90e-08
.param c_vcr1=-4.5152e-05
.param c_vcr2=9.748e-06
.param c_area='c_length*c_width'
.param c_peri='2*(c_length+c_width)'
* + c_c0='(c_cox*c_area+c_capsw*c_peri)*(1+c_tc1*(temper+dtemp-c_tnom)+c_tc2*(temper+dtemp-c_tnom)*(temper+dtemp-c_tnom))'
.param c_c0='(c_cox*c_area+c_capsw*c_peri)*(1+mc_c_cox_1p5ff)'
.model cap_mim_1f5_m4m5_noshield_model c 
+ cap=c_c0
+ tc1=c_tc1
+ tc2=c_tc2
+ tnom=c_tnom
* c_cap 1 2 c='c_c0*(1+ c_vcr1*v(1, 2)+c_vcr2*v(1,2)*v(1,2) )*(1+mc_c_cox_1p5fF)'
c_cap 1 2 cap_mim_1f5_m4m5_noshield_model dtemp=dtemp
.ends cap_mim_1f5_m4m5_noshield

*--------------------------------------------------------------------------------
* MIM Capacitor (1fF/um2) subcircuit model for GF's 0.18 Analog CMOS process
*--------------------------------------------------------------------------------
.subckt cap_mim_1f0_m4m5_noshield 1 2 c_length=l c_width=w dtemp=0 par=1
.param c_cox='0.987e-3*mim_corner_1p0ff'
.param c_capsw='3.3e-10*mim_corner_1p0ff'
.param c_tnom=25
.param c_tc1=1.302e-5
.param c_tc2=-4.93e-9
.param c_vcr1=6.079e-6
.param c_vcr2=1.268e-6
.param c_area='c_length*c_width'
.param c_peri='2*(c_length+c_width)'
* + c_c0='(c_cox*c_area+c_capsw*c_peri)*(1+c_tc1*(temper+dtemp-c_tnom)+c_tc2*(temper+dtemp-c_tnom)*(temper+dtemp-c_tnom))'
.param c_c0='(c_cox*c_area+c_capsw*c_peri)*(1+mc_c_cox_1p0ff)'
.model cap_mim_1f0_m4m5_noshield_model c 
+ cap=c_c0
+ tc1=c_tc1
+ tc2=c_tc2
+ tnom=c_tnom
* c_cap 1 2 c='c_c0*(1+ c_vcr1*v(1, 2)+c_vcr2*v(1,2)*v(1,2) )*(1+mc_c_cox_1p0fF)'
c_cap 1 2 cap_mim_1f0_m4m5_noshield_model dtemp=dtemp
.ends cap_mim_1f0_m4m5_noshield

*--------------------------------------------------------------------------------
* MIM Capacitor (2fF/um2) subcircuit model for GLOBALFOUNDRIES 0.18 Analog CMOS process M2-M3
*--------------------------------------------------------------------------------
.subckt cap_mim_2f0_m4m5_noshield 1 2 c_length=l c_width=w dtemp=0 par=1
.param gleak='9.51e-10/5*10000'
.param c_cox='1.99e-3*mim_corner_2p0ff'
.param c_capsw='2.383e-10*mim_corner_2p0ff'
.param c_vcr1='0+(c_width>5u||c_length>5u)*8.742e-6+(c_width<=5u||c_length<=5u)*(-81e-6)'
.param c_vcr2='0+(c_width>5u||c_length>5u)*9.188e-6+(c_width<=5u||c_length<=5u)*(16.7e-6)'
.param c_tnom=25
.param c_tc1=1.46e-5
.param c_tc2=-5.55e-8
.param c_area='c_length*c_width'
.param c_peri='2*(c_length+c_width)'
* .param c_c0='(c_cox*c_AREA+c_capsw*c_PERI)*(1+c_tc1*(temper +dtemp -c_tnom)+c_tc2*(temper+dtemp-c_tnom)*(temper+dtemp-c_tnom))'
.param c_c0='(c_cox*c_area+c_capsw*c_peri)*(1+mc_c_cox_2p0ff)'
.model cap_mim_2f0_m4m5_noshield_model c 
+ cap=c_c0
+ tc1=c_tc1
+ tc2=c_tc2
+ tnom=c_tnom
* c_cap 1 2 c='c_c0*(1+c_vcr1*v(1,2)+c_vcr2*v(1,2)*v(1,2))*(1+mc_c_cox_2p0fF)'
c_cap 1 2 cap_mim_2f0_m4m5_noshield_model dtemp=dtemp
r_leak 1 2 r='1/(gleak*c_area)' dtemp=dtemp tc1=c_tc1 tc2=c_tc2
.ends cap_mim_2f0_m4m5_noshield

*--------------------------------------------------------------------------------
* OPTION-B [6LM]
*--------------------------------------------------------------------------------

*--------------------------------------------------------------------------------
* MIM Capacitor (1.5fF/um2) subcircuit model for GF's 0.18 Analog CMOS process
*--------------------------------------------------------------------------------
.subckt cap_mim_1f5_m5m6_noshield 1 2 c_length=l c_width=w dtemp=0 par=1
.param c_cox='1.47e-3*mim_corner_1p5ff'
.param c_capsw='3.79e-10*mim_corner_1p5ff'
.param c_tnom=25
.param c_tc1=4.0604e-05
.param c_tc2=-6.90e-08
.param c_vcr1=-4.5152e-05
.param c_vcr2=9.748e-06
.param c_area='c_length*c_width'
.param c_peri='2*(c_length+c_width)'
* + c_c0='(c_cox*c_area+c_capsw*c_peri)*(1+c_tc1*(temper+dtemp-c_tnom)+c_tc2*(temper+dtemp-c_tnom)*(temper+dtemp-c_tnom))'
.param c_c0='(c_cox*c_area+c_capsw*c_peri)*(1+mc_c_cox_1p5ff)'
.model cap_mim_1f5_m5m6_noshield_model c 
+ cap=c_c0
+ tc1=c_tc1
+ tc2=c_tc2
+ tnom=c_tnom
* c_cap 1 2 c='c_c0*(1+ c_vcr1*v(1, 2)+c_vcr2*v(1,2)*v(1,2) )*(1+mc_c_cox_1p5fF)'
c_cap 1 2 cap_mim_1f5_m5m6_noshield_model dtemp=dtemp
.ends cap_mim_1f5_m5m6_noshield

*--------------------------------------------------------------------------------
* MIM Capacitor (1fF/um2) subcircuit model for GF's 0.18 Analog CMOS process
*--------------------------------------------------------------------------------
.subckt cap_mim_1f0_m5m6_noshield 1 2 c_length=l c_width=w dtemp=0 par=1
.param c_cox='0.987e-3*mim_corner_1p0ff'
.param c_capsw='3.3e-10*mim_corner_1p0ff'
.param c_tnom=25
.param c_tc1=1.302e-5
.param c_tc2=-4.93e-9
.param c_vcr1=6.079e-6
.param c_vcr2=1.268e-6
.param c_area='c_length*c_width'
.param c_peri='2*(c_length+c_width)'
* + c_c0='(c_cox*c_area+c_capsw*c_peri)*(1+c_tc1*(temper+dtemp-c_tnom)+c_tc2*(temper+dtemp-c_tnom)*(temper+dtemp-c_tnom))'
.param c_c0='(c_cox*c_area+c_capsw*c_peri)*(1+mc_c_cox_1p0ff)'
.model cap_mim_1f0_m5m6_noshield_model c 
+ cap=c_c0
+ tc1=c_tc1
+ tc2=c_tc2
+ tnom=c_tnom
* c_cap 1 2 c='c_c0*(1+ c_vcr1*v(1, 2)+c_vcr2*v(1,2)*v(1,2) )*(1+mc_c_cox_1p0fF)'
c_cap 1 2 cap_mim_1f0_m5m6_noshield_model dtemp=dtemp
.ends cap_mim_1f0_m5m6_noshield

*--------------------------------------------------------------------------------
* MIM Capacitor (2fF/um2) subcircuit model for GLOBALFOUNDRIES 0.18 Analog CMOS process M2-M3
*--------------------------------------------------------------------------------
.subckt cap_mim_2f0_m5m6_noshield 1 2 c_length=l c_width=w dtemp=0 par=1
.param gleak='9.51e-10/5*10000'
.param c_cox='1.99e-3*mim_corner_2p0ff'
.param c_capsw='2.383e-10*mim_corner_2p0ff'
.param c_vcr1='0+(c_width>5u||c_length>5u)*8.742e-6+(c_width<=5u||c_length<=5u)*(-81e-6)'
.param c_vcr2='0+(c_width>5u||c_length>5u)*9.188e-6+(c_width<=5u||c_length<=5u)*(16.7e-6)'
.param c_tnom=25
.param c_tc1=1.46e-5
.param c_tc2=-5.55e-8
.param c_area='c_length*c_width'
.param c_peri='2*(c_length+c_width)'
.param c_c0='(c_cox*c_area+c_capsw*c_peri)*(1+mc_c_cox_2p0ff)'
.model cap_mim_2f0_m5m6_noshield_model c 
+ cap=c_c0
+ tc1=c_tc1
+ tc2=c_tc2
+ tnom=c_tnom
c_cap 1 2 cap_mim_2f0_m5m6_noshield_model dtemp=dtemp
r_leak 1 2 r='1/(gleak*c_area)' dtemp=dtemp tc1=c_tc1 tc2=c_tc2
.ends cap_mim_2f0_m5m6_noshield
.endl cap_mim_new
